US07846955B2
Intermediate 6: Methanesulfonic acid 2-(4-chloro-benzyloxy)-ethyl ester
A solution of methanesulfonyl chloride (980 μL, 12.6 mmol) in dry DCM (10 mL) was slowly added to a cooled (0° C.) solution of 2-(4-chloro-benzyloxy)-ethanol (2.14 g, 11.46 mmol) and diisopropyethylamine (2.0 mL, 23 mmol) in dry DCM (10 mL). The reaction mixture was allowed to warm to RT overnight. Water was added and the organic layer was dried (MgSO4) and concentrated. The residue was purified by column chromatography over silica using a gradient of 0-20% diethyl ether/cyclohexane to afford the pure product.

reactant | methanesulfonyl chloride | 12.6 mmol, 980 μL | CS(=O)(=O)Cl | CH3ClO2S
reactant | 2-(4-chloro-benzyloxy)-ethanol | 11.46 mmol, 2.14 g | ClC1=CC=C(COCCO)C=C1 | C9H11ClO2
reactant | diisopropyethylamine | 23 mmol, 2.0 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | Water | O | H2O
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | Methanesulfonic acid 2-(4-chloro-benzyloxy)-ethyl ester | ClC1=CC=C(COCCOS(=O)(=O)C)C=C1 | C10H13ClO4S
